US08431578B2
{4-[5-(6-Isopropoxy-2-pyridin-2-yl-pyrimidin-4-yl)-pyridin-3-yl]-phenyl}-(4-isopropyl-piperazin-1-yl)-methanone
This compound is prepared from {4-[5-(6-chloro-2-pyridin-2-yl-pyrimidin-4-yl)-pyridin-3-yl]-phenyl}-(4-isopropyl-piperazin-1-yl)-methanone (Ex. 1) and isopropanol analogously to Example 2: [M+H]+=523 as a pale yellow solid.

reactant | {4-[5-(6-chloro-2-pyridin-2-yl-pyrimidin-4-yl)-pyridin-3-yl]-phenyl}-(4-isopropyl-piperazin-1-yl)-methanone | ClC1=CC(=NC(=N1)C1=NC=CC=C1)C=1C=C(C=NC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C | C28H27ClN6O
reactant | isopropanol | C(C)(C)O | C3H8O
product | {4-[5-(6-Isopropoxy-2-pyridin-2-yl-pyrimidin-4-yl)-pyridin-3-yl]-phenyl}-(4-isopropyl-piperazin-1-yl)-methanone | C(C)(C)OC1=CC(=NC(=N1)C1=NC=CC=C1)C=1C=C(C=NC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C | C31H34N6O2
